US08466282B2
Tert-butyl (3S,5R)-3-{[(1-methyl-1H-benzimidazol-2-yl)carbonyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-{(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (205 mg) was dissolved in dimethylformamide (5 ml), methyl iodide (75 μl) and cesium carbonate (391 mg) were added and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (6:4) was concentrated under reduced pressure to give the object product (184 mg).

reactant | tert-Butyl (3S,5R)-3-{(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 205 mg | N1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C27H39N5O5
reactant | methyl iodide | 75 μl | CI | CH3I
reactant | cesium carbonate | 391 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Tert-butyl (3S,5R)-3-{[(1-methyl-1H-benzimidazol-2-yl)carbonyl](2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 184 mg | CN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C28H41N5O5
